US07317022B2
c. Preparation of ((5)-3-chloro-2-hydroxypropyl)methyl-carbamic acid tert-butyl ester
(S)-1-(benzylmethylamino)-3-chloropropan-2-ol (9.1 g, 47.2 mmol) was dissolved in ethyl acetate (75 mL). Boc anhydride (10.1 g, 51.9 mmol) was then added, followed by 10% Pd(OH)2 on carbon and the mixture placed under 60 psi hydrogen for 16 h. The mixture was filtered through celite, and the volatiles removed yielding an oily residue. The product was recovered by column chromatography. After drying and filtration, the solvent was removed to provide the title intermediate (8.3 g, 87% yield) as a colorless oil.

reactant | (S)-1-(benzylmethylamino)-3-chloropropan-2-ol | 47.2 mmol, 9.1 g | C(C1=CC=CC=C1)CNC[C@@H](CCl)O | C11H16ClNO
reactant | Boc anhydride | 51.9 mmol, 10.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 on carbon | [OH-].[OH-].[Pd+2]
product | ((5)-3-chloro-2-hydroxypropyl)methyl-carbamic acid tert-butyl ester | 8.3 g, 87% yield | C(C)(C)(C)OC(N(C)C[C@@H](CCl)O)=O | C9H18ClNO3
